US08445674B2
F) Lithium (R)-4-benzyloxy-2-(4-benzyloxycarbonyl-7-oxo-[1,4]diazepan-1-yl)-butyrate
A solution of 2.01 g (4.40 mmol) of 4-((S)-3-benzyloxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester in 12 ml of tetrahydrofuran/methanol (1:1) was treated at 0° C. with 4.43 ml (4.40 mmol) of 1 M aq. lithium hydroxide solution, and kept 3 h at this temperature. The reaction was evaporated, dissolved in acetonitrile and evaporated again (3×) to give 1.94 g (98%) of the titled compound as light yellow foam. MS: 439.2 (M−H−).

reactant | 4-((S)-3-benzyloxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 4.40 mmol, 2.01 g | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)[C@@H](CCOCC1=CC=CC=C1)C(=O)OC | C25H30N2O6
reactant | lithium hydroxide | 4.40 mmol, 1 M, 4.43 ml | [OH-].[Li+]
solvent | tetrahydrofuran methanol | 12 ml | O1CCCC1.CO
product | Lithium (R)-4-benzyloxy-2-(4-benzyloxycarbonyl-7-oxo-[1,4]diazepan-1-yl)-butyrate | 1.94 g, 98% | C(C1=CC=CC=C1)OCC[C@H](C(=O)[O-])N1CCN(CCC1=O)C(=O)OCC1=CC=CC=C1.[Li+] | InChI=1S/C24H28N2O6.Li/c27-22-11-13-25(24(30)32-18-20-9-5-2-6-10-20)14-15-26(22)21(23(28)29)12-16-31-17-19-7-3-1-4-8-19;/h1-10,21H,11-18H2,(H,28,29);/q;+1/p-1/t21-;/m1./s1
